US07820685B2
2-(4-aminophenylthio)-6-(azetidin-1-yl)-N-(3-methyl-1H-pyrazol-5-yl)pyrimidin-4-amine
tert-butyl 4-(4-(5-methyl-1H-pyrazol-3-ylamino)-6-(azetidin-1-yl)pyrimidin-2-ylthio)phenylcarbamate (prepared using method similar to that described for example 6) (2.53 g, 5.6 mmol) was dissolved in 1:1 TFA-DCM (20 mL) and the resulting solution allowed to stand overnight at room temperature. The solution was concentrated in vacuo. The residue was taken up in EtOAc and washed with saturated aqueous sodium bicarbonate solution (×2) then brine and dried over sodium sulfate. The resulting tan solid (1.8 g, 91%) [MS (ES+) 354) was used without further purification or characterization in the next step.

reactant | tert-butyl 4-(4-(5-methyl-1H-pyrazol-3-ylamino)-6-(azetidin-1-yl)pyrimidin-2-ylthio)phenylcarbamate | CC1=CC(=NN1)NC1=NC(=NC(=C1)N1CCC1)SC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C22H27N7O2S
solvent | TFA DCM | 20 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 2-(4-aminophenylthio)-6-(azetidin-1-yl)-N-(3-methyl-1H-pyrazol-5-yl)pyrimidin-4-amine | NC1=CC=C(C=C1)SC1=NC(=CC(=N1)NC1=CC(=NN1)C)N1CCC1 | C17H19N7S
